US05571833
To a solution of 2-chloro-3-benzyloxy-6-nitro-toluene (5.00 g, 18.0 mmol) in DMF (25 ml) was added dimethylformamide diethyl acetal (3.14 g, 21.3 mmol) and pyrrolidine (1.51 g, 21.3 mmol), and the mixture was heated at 110° C. for 3 hours under nitrogen. Evaporation under high vacuum at 70° C. gave a deep-red oil which was dissolved in THF (35 ml) and methanol (35 ml) and treated with Raney nickel (0.4 ml) and then hydrazine hydrate (1.30 ml), while stirring at room temperature under nitrogen. The temperature rose to 45° C., and was maintained there by gently warming on an oil bath. A further quantity of hydrazine hydrate (1.30 ml) was added after 30 minutes, and stirring at 45° C. was continued for another hour. The mixture was allowed to cool, filtered through celite, evaporated to a brown oil and purified by chromatography (SiO2 ; C6H14 /CHCl3) to give 4-chloro-5-benzyloxyindole as a yellow oil (3.58 g).

reactant | 2-chloro-3-benzyloxy-6-nitro-toluene | 18.0 mmol, 5.00 g | ClC1=C(C(=CC=C1OCC1=CC=CC=C1)[N+](=O)[O-])C | C14H12ClNO3
reactant | dimethylformamide diethyl acetal | 21.3 mmol, 3.14 g | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | pyrrolidine | 21.3 mmol, 1.51 g | N1CCCC1 | C4H9N
reactant | hydrazine hydrate | 1.30 ml | O.NN
reactant | hydrazine hydrate | 1.30 ml | O.NN
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | THF | 35 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | 0.4 ml | [Ni] | Ni
solvent | methanol | 35 ml | CO | CH4O
product | 4-chloro-5-benzyloxyindole | 3.58 g | ClC1=C2C=CNC2=CC=C1OCC1=CC=CC=C1 | C15H12ClNO
